US06916937B2
Step C: 3-(S)-(5-Chloro-2-methoxy-phenyl)-3-fluoro-6-trifluoromethyl-1-(3-(R), 4-(S),5-(S)-tris-benzyloxy-6-(R) benzyloxymethyl-tetrahydro-pyran-2-yloxymethyl)-1,3-dihydro-indol-2-one; 3-(S)-VI.
To a round bottom flask containing a solution of (S)-3-(5-Chloro-2-methoxy-phenyl)-1-chloromethyl-3-fluoro-6-trifluoromethyl-1,3-dihydro-indol-2-one (S)-IV) (0.486 g, 1.2 mmol) in anhydrous acetonitrile (9 mL) was added 2,3,4,6-tetra-O-benzyl-D-glucopyranose (V; 0.648 g, 1.2 mmol) and cesium carbonate (0.390 g, 1.2 mmol). The reaction mixture was allowed to stir at room temperature overnight. The solvent was then removed, and the crude product was purified via flash chromatography (silica gel, 5:1 hexanes:ethyl acetate) to give a 1:1 mixture of α and β anomers of the title compound (0.768 g, 71%). 1H NMR (CDCl3, 400 MHz): δ 7.79 (dd, 2H, J=5.1 Hz, 1.8 Hz), 7.37-7.12 (m, 48H), 6.66 (m, 2H), 5.66 (d, 1H, J=11.0 Hz), 5.34 (m, 2H), 5.08 (d, 1H, J=3.7 Hz), 4.89-4.73 (m, 9H), 4.66-4.44 (m, 9H), 3.79 (m, 3H), 3.73-3.59 (m, 6H), 3.55-3.49 (m, 3H), 3.38 (d, 6H, J=4.1 Hz).

reactant | (S)-3-(5-Chloro-2-methoxy-phenyl)-1-chloromethyl-3-fluoro-6-trifluoromethyl-1,3-dihydro-indol-2-one | ClC=1C=CC(=C(C1)[C@@]1(C(N(C2=CC(=CC=C12)C(F)(F)F)CCl)=O)F)OC | C17H11Cl2F4NO2
reactant | 2,3,4,6-tetra-O-benzyl-D-glucopyranose | 1.2 mmol, 0.648 g | C(C1=CC=CC=C1)O[C@H]1C(O)O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C34H36O6
reactant | cesium carbonate | 1.2 mmol, 0.390 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 9 mL | C(C)#N | C2H3N
product | 3-(S)-(5-Chloro-2-methoxy-phenyl)-3-fluoro-6-trifluoromethyl-1-(3-(R), 4-(S),5-(S)-tris-benzyloxy-6-(R) benzyloxymethyl-tetrahydro-pyran-2-yloxymethyl)-1,3-dihydro-indol-2-one | 0.768 g, 71% | ClC=1C=CC(=C(C1)[C@@]1(C(N(C2=CC(=CC=C12)C(F)(F)F)COC1O[C@@H]([C@@H]([C@@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)=O)F)OC | C51H46ClF4NO8
